US05312994
Synthesis of 4-fluoro-4'-phenylethynylbenzophenone In a 250 mL flask equipped with a nitrogen inlet, overhead stirring assembly, and reflux condenser was placed fluorobenzene (117 g, 1.2 mol), and 4-bromobenzyl chloride (39.8 g, 0.181 mol). The mixture was cooled to 0° C. an anhydrous aluminum chloride (27 g, 0.20 mol) was added. The mixture was stirred at 23° C. for 16 hours. The resulting slurry was poured into 2 L of acidic (HCl) water. The organics were extracted with methylene chloride, and dried over magnesium sulfate. The slurry was filtered and the methylene chloride was removed under reduced pressure. Recrystallization from ethanol afforded 43.3 g (86%) of 4-bromo-4'-fluorobenzophenone as white crystals: mp 106°-107° C. (Lit 107°-108° C.).

reactant | 4-fluoro-4'-phenylethynylbenzophenone | FC1=CC=C(C(=O)C2=CC=C(C=C2)C#CC2=CC=CC=C2)C=C1 | C21H13FO
reactant | fluorobenzene | 1.2 mol, 117 g | FC1=CC=CC=C1 | C6H5F
reactant | 4-bromobenzyl chloride | 0.181 mol, 39.8 g | BrC1=CC=C(CCl)C=C1 | C7H6BrCl
reactant | aluminum chloride | 0.20 mol, 27 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 2 L | Cl | ClH
product | 4-bromo-4'-fluorobenzophenone | 43.3 g, 86% | BrC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8BrFO
